US04710566
Guanosine triphosphate (GTP) (300 mg, 0.5 mmol) was methylated using dimethyl sulfate according to the procedure of Hendler et al. ((1970) Biochemistry 9, 414) with modification. The reaction mixture was neutralized and the product purified on a DEAE Sephadex A-25 (Sephadex is a registered trademark of Pharmacia Fine Chemicals, Inc.) column (3×50 cm). The column was washed with water and then eluted with a linear gradient of 0 to 0.8M triethylammonium bicarbonate (TEAB), pH 7.8 (2 l total volume). Twenty-milliliter fractions were collected and assayed spectrophometrically at 260 nm. m7GTP eluted at approximately 0.4M, and the peak was pooled and repeatedly evaporated to dryness from water vacuo. m7GTP-triethylammonium salt was obtained as a white solid (0.25 mmol, 50% yield).

reactant | Guanosine triphosphate | 0.5 mmol, 300 mg | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(=O)NC(N)=NC12)O)O | C10H16N5O14P3
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
product | m7GTP triethylammonium | CN1C=[N+](C2=C1C(=O)N=C(N2)N)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OP(=O)(O)O)O)O.C(C)[NH+](CC)CC | InChI=1S/C11H18N5O14P3.C6H15N/c1-15-3-16(8-5(15)9(19)14-11(12)13-8)10-7(18)6(17)4(28-10)2-27-32(23,24)30-33(25,26)29-31(20,21)22;1-4-7(5-2)6-3/h3-4,6-7,10,17-18H,2H2,1H3,(H6-,12,13,14,19,20,21,22,23,24,25,26);4-6H2,1-3H3/p+2/t4-,6-,7-,10-;/m1./s1
